US08389521B2
N-(3-Methoxy-propyl)-C-(3-nitro-phenyl)-methanesulfonamide (0.31 g, 1.08 mmol) was hydrogenated over Raney nickel (0.05 g) in methanol at 50° C. and 70 psi for 4 h. Then, the catalyst was filtered off, washed with warm methanol, and the combined filtrates were evaporated to give 0.14 g (50%) of C-(3-amino-phenyl)-N-(3-methoxy-propyl)-methanesulfonamide

reactant | N-(3-Methoxy-propyl)-C-(3-nitro-phenyl)-methanesulfonamide | 1.08 mmol, 0.31 g | COCCCNS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C11H16N2O5S
catalyst | Raney nickel | 0.05 g | [Ni] | Ni
solvent | methanol | CO | CH4O
product | C-(3-amino-phenyl)-N-(3-methoxy-propyl)-methanesulfonamide | 0.14 g, 50% | NC=1C=C(C=CC1)CS(=O)(=O)NCCCOC | C11H18N2O3S
